US06147216
2-(4-Cyclopropanecarbonyl-phenyl)-proprionic acid, dimethylamide;
2-(4-Cyclopropanecarbonyl-phenyl)-proprionic acid, pyrrolidineamide;

reactant | 2-(4-Cyclopropanecarbonyl-phenyl)-proprionic acid | C1(CC1)C(=O)C1=CC=C(C=C1)C(C(=O)O)C | C13H14O3
reactant | pyrrolidineamide | N1(CCCC1)C(=O)N | C5H10N2O
product | 2-(4-Cyclopropanecarbonyl-phenyl)-proprionic acid, dimethylamide | CN(C(C(C)C1=CC=C(C=C1)C(=O)C1CC1)=O)C | C15H19NO2
